Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-6.47562681699
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],6.4336648834800005
[H:1][O:2][C@:3]1([H:4])[C:5][O:6][C:7]1[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7][H:8],1.05040926145
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:5](=[C:6]([H:7])[H:8])([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[C:9]=[C:12]([H:13])[H:14],-0.0956015739507
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][H:4],4.26618920568
[C:6]([H:7])#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],0.4427770674499999
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.60380455994
[C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.52402924811
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1],2.05245412888
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])=[C:10][H:11],0.64081552483
[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],-3.19498191092
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.045698505990003
[H:1].[O:2]=[C:3]([H:4])/[C:5](=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])/[C:5](=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.64844930371
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[O:1],8.0475076513
[C:7][H:8].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6]>>[O:1]=[C:2]([H:3])[O:4][C:5][C:6]#[C:7][H:8],-7.933416437589999
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5][H:6],7.2960343398899985
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-2.09200136
[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[C:3]([H:4])#[C:5][C:6]([H:7])[H:8]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.06935177287
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:10]([H:11])[H:12].[O:8][H:9]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],-2.4795925798
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.82407536584
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1],4.80973140875
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:1][C:2]#[C:3],7.12837574438
[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-0.370102129851
[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12]1>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[O:12],-0.175330679269
[C:2]#[C:3][O:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.67863502377
[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8]/[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9],4.79933981397
[C:5]#[C:6][O:7][H:8].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][H:8],-1.96838118282
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:4],3.75234826148
